US07417054B2
5-(4-Methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-2-ol. A solution of 2-methoxy-5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine (1.75 g, 6.15 mmol) in 4 M HCl (100 mL) was heated at reflux for 5 h. The solution was concentrated to give 5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-2-ol hydrochloride. The salt was neutralized with satd. aq. NaHCO3, and extracted with DCM. The organic layer was concentrated to give the title compound (1.14 g, 68%) as the free base. MS (ESI): mass calcd. for C16H18N2O2, 270.33; m/z found, 271.4 [M+H]+. 1H NMR (CDCl3): 7.12-7.07 (m, 2H), 7.03 (d, J=9.3, 1H), 6.87-6.82 (m, 2H), 6.37 (d, J=9.3, 1H), 4.00-4.92 (m, 1H), 3.80 (s, 3H), 3.69-3.62 (m, 1H), 3.56-3.50 (m, 1H), 3.01-2.95 (m, 1H), 2.52-2.45 (m, 1H), 2.44 (s, 3H).

reactant | 5-(4-Methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-2-ol | COC1=CC=C(C=C1)C1C=2C=CC(=NC2CN(C1)C)O | C16H18N2O2
reactant | 2-methoxy-5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine | 6.15 mmol, 1.75 g | COC1=NC=2CN(CC(C2C=C1)C1=CC=C(C=C1)OC)C | C17H20N2O2
reactant | HCl | 4 M, 100 mL | Cl | ClH
product | 5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-2-ol hydrochloride | Cl.COC1=CC=C(C=C1)C1C=2C=CC(=NC2CN(C1)C)O | InChI=1S/C16H18N2O2.ClH/c1-18-9-14(11-3-5-12(20-2)6-4-11)13-7-8-16(19)17-15(13)10-18;/h3-8,14H,9-10H2,1-2H3,(H,17,19);1H
